data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:10]1[N+:18](=[CH:4][CH:37]=[CH:12][c:24]2[cH:5][cH:19][cH:3][cH:20][cH:6]2)[CH:17]([CH2:38][c:30]2[cH:44][cH:15][cH:21][cH:16][cH:45]2)[C:23](=[O:7])[N:31]1[CH3:22])([CH3:25])([CH3:26])[CH3:27].[cH:1]1[cH:28][cH:40][c:11]([S:46](=[O:13])(=[O:14])[CH:32]=[C:42]2[CH:8]=[CH:35][C:43](=[N+:39]([O-:33])[O-:34])[CH:36]=[CH:9]2)[cH:41][cH:29]1>>[cH:1]1[cH:28][cH:40][c:11]([S:46](=[O:13])(=[O:14])[CH:32]([CH:12]([c:24]2[cH:5][cH:19][cH:3][cH:20][cH:6]2)[CH:37]=[CH:4][N:18]2[CH:10]([C:2]([CH3:25])([CH3:26])[CH3:27])[N:31]([CH3:22])[C:23](=[O:7])[CH:17]2[CH2:38][c:30]2[cH:44][cH:15][cH:21][cH:16][cH:45]2)[c:42]2[cH:8][cH:35][c:43]([N+:39](=[O:33])[O-:34])[cH:36][cH:9]2)[cH:41][cH:29]1", "epd": [["LP-/Pi+", [33], [39, 33]], ["Pi-/Pi+", [43, 39], [36, 43]], ["Pi-/Pi+", [9, 36], [42, 9]], ["Pi-/Sigma+", [32, 42], [32, 12]], ["Pi-/Pi+", [12, 37], [37, 4]], ["Pi-/LP+", [4, 18], [18]]]}
{"reaction_name": "Gewald reaction", "rsmi": "[O:1]=[C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][C:7]1([H:15])[H:23].[N:8]#[C:9][C:10]([H:14])([H:24])[C:11]#[N:12].[S:13]1[S:16][S:17][S:18][S:19][S:20][S:21][S:22]1>>[N:8]#[C:9][C:10]1=[C:11]([N:12]([H:14])[H:24])[S:13][C:7]2=[C:2]1[CH2:3][CH2:4][CH2:5][CH2:6]2.[O:1]([H:15])[H:23].[S:16]1[S:17][S:18][S:19][S:20][S:21][S:22]1", "epd": [["Sigma-/Sigma+", [1, 2], [1, 15]], ["Pi-/Sigma+", [1, 2], [1, 23]], ["Sigma-/Pi+", [7, 15], [2, 7]], ["Sigma-/Sigma+", [7, 23], [7, 13]], ["Sigma-/Pi+", [10, 14], [10, 11]], ["Sigma-/Sigma+", [10, 24], [2, 10]], ["Pi-/Sigma+", [11, 12], [12, 24]], ["Pi-/Sigma+", [11, 12], [12, 14]], ["Sigma-/Sigma+", [13, 16], [16, 22]], ["Sigma-/Sigma+", [13, 22], [11, 13]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:2][C:11](=[C:4]=[N-:12])[c:13]1[cH:14][cH:17][cH:22][cH:18][cH:15]1.[N:1]1([S:5][C:16]([F:6])([F:7])[F:8])[S:3](=[O:20])(=[O:21])[c:9]2[c:24]([cH:23][cH:10][cH:25][cH:27]2)[C:26]1=[O:19]>>[CH3:2][C:11]([C:4]#[N:12])([S:5][C:16]([F:6])([F:7])[F:8])[c:13]1[cH:14][cH:17][cH:22][cH:18][cH:15]1.[N:1]1=[C:26]([O-:19])[c:24]2[c:9]([cH:27][cH:25][cH:10][cH:23]2)[S:3]1(=[O:20])=[O:21]", "epd": [["LP-/Pi+", [12], [4, 12]], ["Pi-/Sigma+", [11, 4], [11, 5]], ["Sigma-/Pi+", [5, 1], [1, 26]], ["Pi-/LP+", [26, 19], [19]]]}
{"reaction_name": "Aziridinium ion formation", "rsmi": "[Cl:1][CH2:5][CH2:2][N:3]([CH3:4])[H:6]>>[CH2:2]1[N+:3]([CH3:4])([H:6])[CH2:5]1.[Cl-:1]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [1, 5], [1]]]}
{"reaction_name": "Thioacetal exchange", "rsmi": "[CH3:2][O:7][CH:5]([CH3:6])[O:8][CH3:3].[S:1]([CH3:4])[H:9]>>[CH3:2][O:7][H:9].[S:1]([CH3:4])[CH:5]([CH3:6])[O:8][CH3:3]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Sigma-/LP+", [5, 7], [7]], ["LP-/Sigma+", [7], [7, 9]], ["Sigma-/LP+", [1, 9], [1]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:10]1[N+:17](=[CH:4][CH:31]=[CH:11][c:23]2[cH:5][cH:18][cH:3][cH:19][cH:6]2)[CH:15]([CH2:32][c:27]2[cH:34][cH:13][cH:20][cH:14][cH:35]2)[C:22](=[O:7])[N:28]1[CH3:21])([CH3:24])([CH3:25])[CH3:26].[NH:1]1[CH:8]([C:33](=[O:12])[O-:29])[CH2:16][CH2:30][CH2:9]1>>[NH+:1]1([CH:11]([c:23]2[cH:5][cH:18][cH:3][cH:19][cH:6]2)[CH:31]=[CH:4][N:17]2[CH:10]([C:2]([CH3:24])([CH3:25])[CH3:26])[N:28]([CH3:21])[C:22](=[O:7])[CH:15]2[CH2:32][c:27]2[cH:34][cH:13][cH:20][cH:14][cH:35]2)[CH:8]([C:33](=[O:12])[O-:29])[CH2:16][CH2:30][CH2:9]1", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/Pi+", [11, 31], [31, 4]], ["Pi-/LP+", [4, 17], [17]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[cH:18][cH:24][c:15]([B-:3]2([CH2:21][CH:13]=[CH2:30])[O:31][C:28]([CH3:4])([CH3:5])[C:29]([CH3:6])([CH3:7])[O:32]2)[cH:25][cH:19]1.[n:2]1[n:8][c:27]2[n:11]([cH:14][c:26]([N+:10](=[O:9])[O-:22])[cH:20][c:16]2[N+:17](=[O:12])[O-:33])[n:23]1>>[cH:1]1[cH:18][cH:24][c:15]([B-:3]2([CH2:21][CH+:13][CH2:30][CH:14]3[n:11]4[n:23][n:2][n:8][c:27]4[C:16]([N+:17](=[O:12])[O-:33])=[CH:20][C:26]3=[N+:10]([O-:9])[O-:22])[O:31][C:28]([CH3:4])([CH3:5])[C:29]([CH3:6])([CH3:7])[O:32]2)[cH:25][cH:19]1", "epd": [["Pi-/Sigma+", [30, 13], [30, 14]], ["Pi-/Pi+", [14, 26], [26, 10]], ["Pi-/LP+", [10, 9], [9]]]}
{"reaction_name": "Paal–Knorr thiophene formation", "rsmi": "[CH3:1][C:2](=[O:3])[CH:4]([H:10])[CH:5]([H:11])[C:6](=[O:7])[CH3:8].[S:9]([H:12])[H:13]>>[CH3:1][c:2]1[s:9][c:6]([CH3:8])[cH:5][cH:4]1.[O:3]([H:10])[H:12].[O:7]([H:11])[H:13]", "epd": [["LP-/Sigma+", [9], [2, 9]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 10]], ["Sigma-/LP+", [4, 10], [4]], ["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 12]], ["Sigma-/LP+", [9, 12], [9]], ["LP-/Sigma+", [9], [6, 9]], ["Pi-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 11]], ["Sigma-/LP+", [5, 11], [5]], ["LP-/Pi+", [5], [5, 6]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 13]], ["Sigma-/LP+", [9, 13], [9]]]}
